US06051712
A solution of 3.92 g of methanesulphonyl chloride in 20 ml of methylene chloride was added dropwise to a solution, cooled to -10° C., of 7.7 g (35.3 mmol) of (4,8-dimethoxy-naphthalen-2-yl)-methanol and 4.4 g (38.8 mmol) of triethylamine in 50 ml of methylene chloride. The reaction mixture was stirred at room temperature for 18 hours. For the working-up, the mixture was extracted with 50 ml of ice-cold sodium hydrogen carbonate solution and the aqueous phase was separated and back-extracted with 25 ml of methylene chloride. The combined organic phases were dried over sodium sulphate and subsequently evaporated under reduced pressure. For purification, the residue was filtered over a layer of silica gel using methylene chloride as the eluent. There were obtained 7.2 g of 2-chloromethyl-4,8-dimethoxy-naphthalene as a beige solid; MS: 296 (M)+.

reactant | methanesulphonyl chloride | 3.92 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | (4,8-dimethoxy-naphthalen-2-yl)-methanol | 35.3 mmol, 7.7 g | COC1=CC(=CC2=C(C=CC=C12)OC)CO | C13H14O3
reactant | triethylamine | 38.8 mmol, 4.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-4,8-dimethoxy-naphthalene | 7.2 g | ClCC1=CC2=C(C=CC=C2C(=C1)OC)OC | C13H13ClO2
